US05124498
One (1) part of adamantanone was treated with 1.5 parts of TiCl3 and 4.5 parts Na. Titanium trichloride (2.314 grams, 15.0 mmol) was weighed into a 3-necked flask in an argon glove bag. The flask was cooled over ice, and 25 ml of dry 1,4-dioxane was added with stirring. Small (about 5 mm) chunks of Na metal were added (1.035 grams, 45.0 mmol). The mixture refluxed with stirring under an argon blanket for 45 minutes. No sodium particles were visible. The adamantanone (1.502 grams, 10.0 mmol) was added to the mixture and reflux was continued for 23 additional hours. After cooling, 50 ml of hexanes was added. The product mixture was filtered through Florisil and the filter cake was washed with additional hexanes. NMR analysis of the recovered product revealed essentially pure dimer, with neither unreacted ketone nor byproduct alcohol detected. The dimer, olefin, adamantylideneadamantane was produced in 97% yield.

reactant | adamantanone | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | sodium | [Na] | Na
reactant | adamantanone | 10.0 mmol, 1.502 grams | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
catalyst | Titanium trichloride | 15.0 mmol, 2.314 grams | [Cl-].[Cl-].[Cl-].[Ti+3]
solvent | 1,4-dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | adamantylideneadamantane | 97% yield | C12C(C3CC(CC(C1)C3)C2)=C2C3CC1CC(CC2C1)C3 | C20H28
